US08440662B2
Step 4: 2-fluoro-N,N-dimethyl-4-(3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ureido)-benzamide
To a 100 mL round bottom flask, 4-(3-(4-bromophenyl)ureido)-2-fluoro-N,N-dimethyl-benzamide (3.0 g, 0.00789 mol), bis(pinacolato)diboron (3.02 g, 0.01179 mol), KOAc (2.32 g, 0.02363 mol) and 1,4-dioxane (30 mL) were added and degassed with nitrogen for 5-10 min. To the flask, Pd(dppf)Cl2.DCM (0.45 g, 0.0005513 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was maintained at 105° C. for 12 h. To the cooled reaction mass, water was added and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure to obtain the crude product. The crude product was subjected to column chromatography using 60-120 silica gel and 2-5% MeOH in chloroform to get the title compound [1.1 g, 33%]. 1H NMR (300 MHz, DMSO-d6): δ 8.41 (s, 1H), 8.23 (s, 1H), 7.74 (d, J=8.4 Hz, 2H), 7.44 (d, J=8.1 Hz, 2H), 7.28 (d, J=8.7 Hz, 2H), 7.09 (t, J=8.1 Hz, 1H), 6.55 (d, J=8.4 Hz, 1H), 3.16 (s, 3H), 2.91 (s, 3H), 1.33 (s, 12H); LC-MS (ESI): Calculated mass: 427.2; Observed mass: 428.2 (RT: 1.58 min).

reactant | 4-(3-(4-bromophenyl)ureido)-2-fluoro-N,N-dimethyl-benzamide | 0.00789 mol, 3.0 g | BrC1=CC=C(C=C1)NC(NC1=CC(=C(C(=O)N(C)C)C=C1)F)=O | C16H15BrFN3O2
reactant | bis(pinacolato)diboron | 0.01179 mol, 3.02 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.02363 mol, 2.32 g | CC(=O)[O-].[K+]
reactant | DCM | 0.0005513 mol, 0.45 g | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | CO | CH4O
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2-fluoro-N,N-dimethyl-4-(3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ureido)-benzamide | 1.1 g, 33% | FC1=C(C(=O)N(C)C)C=CC(=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H27BFN3O4
